US04466981
A solution of 2,3-dimethoxy-1,4-naphthoquinone (20.0 g) in tetrahydrofuran (150 mL) was hydrogenated at atmospheric pressure over Pd-C (10%, 0.5 g) until the solution was colorless, approximately 4 hours. While still under a blanket of hydrogen, a solution of acetic anhydride (20 mL) and pyridine (18 mL) in tetrahydrofuran (50 mL) was added to the mixture. After stirring for 1 hour, the mixture was evaporated. The residue was dissolved in ether (100 mL) and was washed with 1M hydrochloric acid (3×50 mL) and with brine (2×50 mL). The organic layer was dried over sodium sulfate, filtered, and evaporated. Recrystallization from ether afforded 2,3-dimethoxy-1,4-diacetyloxynaphthalene (22.5 g), m.p. 138°-139° C.

reactant | 2,3-dimethoxy-1,4-naphthoquinone | 20.0 g | COC=1C(C2=CC=CC=C2C(C1OC)=O)=O | C12H10O4
reactant | hydrogen | [H][H] | H2
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 18 mL | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 2,3-dimethoxy-1,4-diacetyloxynaphthalene | 22.5 g | COC1=C(C2=CC=CC=C2C(=C1OC)OC(C)=O)OC(C)=O | C16H16O6
